US08486967B2
i) N-(3,3-Difluoropiperidin-4-yl)-8-(2,3,4-trifluorophenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine
To a solution of 3,3-difluoro-4-[8-(2,3,4-trifluoro-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester (110 mg, 228 μmol) in CH2Cl2 (4 mL) at 0° C. was added TFA (182 mg, 123 μl, 1.59 mmol) and stirred at room temperature for 18 hours. Further TFA (182 mg, 123 μl, 1.59 mmol) was added and stirred at 50° C. for 6 hours. The reaction mixture was extracted with saturated NaHCO3 solution and ethyl acetate, the organic layers were combined, dried over Na2SO4, filtered and the solvents were evaporated. The product was coevaporated four times with toluene. The title compound was obtained as light yellow foam (87 mg, 100%).

reactant | 3,3-difluoro-4-[8-(2,3,4-trifluoro-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester | 228 μmol, 110 mg | C(C)(C)(C)OC(=O)N1CC(C(CC1)NC1=NN2C(C(=CC=C2)C2=C(C(=C(C=C2)F)F)F)=N1)(F)F | C22H22F5N5O2
reactant | TFA | 1.59 mmol, 123 μl, 182 mg | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 1.59 mmol, 123 μl, 182 mg | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | N-(3,3-Difluoropiperidin-4-yl)-8-(2,3,4-trifluorophenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine | FC1(CNCCC1NC1=NN2C(C(=CC=C2)C2=C(C(=C(C=C2)F)F)F)=N1)F | C17H14F5N5
